US05100874
HCl·NHOBzl (2.07 g; 13.0 mmol) was dissolved in a mixed solvent of DMSO (10 ml) and DMF (30 ml), and TEA (2.0 ml; 14.3 mmol) was added dropwise under ice cooling. After the dropwise addition, HOBt (1.35 g; 10.0 mmol) and Boc-Ala-OH (1.89 g; 10.0 mmol) were added and the mixture was cooled with a coolant at -20° C. DCC (2.70 g; 13.1 mmol) dissolved in CH2Cl2 (10 ml) was added, and the reaction was carried out for 1 hour at -10° C. and overnight in a refrigerator. Insolubles were removed by filtration and the solvent was distilled off under reduced pressure. The residue was dissolved in AcOEt and washed successively with water, 1N-HCl, water, 10% Na2CO3 and water. The solution was dried over anhydrous MgSO4 and the residue was purified by chromatography on silica gel (Fuji Davison BW 200, 170 g; eluted with AcOEt:n-hexane=2:3 mixed solvent) and then recrystallized from an AcOEt-n-hexane mixed solvent to give Boc-Ala-NHOBzl (2.68 g; 91%) as colorless needles. m.p. 98°-99° C., specific rotation [α]D28 -42.1 (c=1.0, EtOH).

reactant | HOBt | 10.0 mmol, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Ala-OH | 10.0 mmol, 1.89 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | DCC | 13.1 mmol, 2.70 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Boc-Ala-NHOBzl | 2.68 g, 91% | N([C@@H](C)C(=O)NOCC1=CC=CC=C1)C(=O)OC(C)(C)C | C15H22N2O4
